US04959470
3-Bromo-1,4-dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinecarboxaldehyde
2.62 g of 1,4-dihydro-4-oxo-5-(phenylmethoxy)-2-pyridine carboxaldehyde and 0.83 g NaAc were dissolved in 50 ml AcOH and 2 g Br2 were dropped in while stirring at room temperature. After 2 hours the solvent was distilled off and the residue stirred with 50 ml ice water. A precipitate of crude title compound was obtained. Isolation by filtration, washing with water and recrystallization from diozane yielded 2.61 g title compound.

reactant | 1,4-dihydro-4-oxo-5-(phenylmethoxy)-2-pyridine carboxaldehyde | 2.62 g | O=C1C=C(NC=C1OCC1=CC=CC=C1)C=O | C13H11NO3
reactant | Br2 | 2 g | BrBr | Br2
solvent | AcOH | 50 ml | CC(=O)O | C2H4O2
product | 3-Bromo-1,4-dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinecarboxaldehyde | 2.61 g | BrC1=C(NC=C(C1=O)OCC1=CC=CC=C1)C=O | C13H10BrNO3
